### PR TITLE
feat(Analysis/Matrix): operator norm and spectral radius of row-stochastic matrices

### PR DESCRIPTION
**Pull request by mkaratarakis**
Operator-norm and spectral-radius bounds for row-stochastic matrices: ‖A *ᵥ v‖ ≤ ‖v‖, ‖A‖ ≤ 1, and spectralRadius ℝ A ≤ These need Analysis imports, so they go in a new file rather than in `LinearAlgebra/Matrix/Stochastic.lean`.More material on stochastic matrices will follow here. Split off from #39914.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

@or4nge19

### CODE REVIEW

**Comment by mkaratarakis** [comment]
t-analysis

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+  intro i
+  rw [Real.norm_eq_abs, Matrix.mulVec]
+  calc |∑ j, A i j * v j|
+    _ ≤ ∑ j, |A i j * v j| :=
+      Finset.abs_sum_le_sum_abs (fun i_1 ↦ A i i_1 * v i_1) Finset.univ
+    _ = ∑ j, (A i j) * |v j| := by simp_rw [abs_mul, abs_of_nonneg (h_nonneg i _)]
+    _ ≤ ∑ j, A i j * ‖v‖ := Finset.sum_le_sum fun j _ =>
+      mul_le_mul_of_nonneg_left (norm_le_pi_norm v j) (h_nonneg i j)
+    _ = (∑ j, A i j) * ‖v‖ := (Finset.sum_mul ..).symm
+    _ = ‖v‖ := by rw [h_row_sum i, one_mul]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/Stochastic.lean]: This holds for `RCLike`,
```lean
open scoped ComplexOrder

lemma norm_mulVec_le_of_row_sum (h_row_sum : ∀ i, ∑ j, A i j = 1)
    (h_nonneg : ∀ i j, 0 ≤ A i j) (v : n → α) : ‖A *ᵥ v‖ ≤ ‖v‖ := by
  rw [pi_norm_le_iff_of_nonneg (norm_nonneg v)]
  intro i
  rw [Matrix.mulVec_apply_eq_sum]
  grw [norm_sum_le, norm_mul_le, norm_le_pi_norm v, ← Finset.sum_mul]
  suffices ∑ i_1, ‖A i i_1‖ = 1 by grw [this, one_mul]
  conv at h_nonneg =>
    enter [i, j]
    rw [RCLike.nonneg_iff_exists_ofReal]
  choose A' h_nonneg h_eq using h_nonneg
  simp_rw [← h_eq, norm_algebraMap', Real.norm_eq_abs, abs_of_nonneg (h_nonneg _ _)]
  apply RCLike.ofReal_injective (K := α)
  push_cast
  simp_rw [h_eq]
  exact mod_cast h_row_sum i
```

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+@[expose] public section
+
+namespace Matrix
+
+variable {𝕜 n : Type*} {A : Matrix n n 𝕜} [RCLike 𝕜] [Fintype n]
+
+open scoped ComplexOrder Matrix.Norms.Operator
+
+lemma linfty_opNorm_le_one_of_row_sum (h_row_sum : ∀ i, ∑ j, A i j = 1)
+    (h_nonneg : ∀ i j, 0 ≤ A i j) : ‖A‖ ≤ 1 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Stochastic.lean]: I don't see any reason to duplicate the lemmas. You should only keep the `∈ rowStochastic` versions.

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+  have h (i : n) : ∑ j, ‖A i j‖₊ = 1 := by
+    rw [← NNReal.coe_inj, ← RCLike.ofReal_inj (K := 𝕜)]
+    push_cast [RCLike.norm_of_nonneg' (h_nonneg i _)]
+    exact h_row_sum i
+  simp [linfty_opNorm_def, Finset.sup_le_iff, h]
+
+lemma norm_mulVec_le_of_row_sum (h_row_sum : ∀ i, ∑ j, A i j = 1)
+    (h_nonneg : ∀ i j, 0 ≤ A i j) (v : n → 𝕜) : ‖A *ᵥ v‖ ≤ ‖v‖ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Stochastic.lean]: likewise, this could simply disappear

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+    ‖A *ᵥ v‖ ≤ ‖v‖ := by
+  grw [linfty_opNorm_mulVec, linfty_opNorm_le_one_of_mem_rowStochastic hM, one_mul]
+
+theorem spectralRadius_le_one_of_mem_rowStochastic [Nonempty n] (hM : A ∈ rowStochastic 𝕜 n) :
+    spectralRadius 𝕜 A ≤ 1 :=
+  (spectrum.spectralRadius_le_nnnorm A).trans <| by
+    exact_mod_cast linfty_opNorm_le_one_of_mem_rowStochastic hM
+
+theorem spectralRadius_le_one_of_row_sum [Nonempty n] (h_row_sum : ∀ i, ∑ j, A i j = 1)
+    (h_nonneg : ∀ i j, 0 ≤ A i j) : spectralRadius 𝕜 A ≤ 1 :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Stochastic.lean]: likewise

**Review by j-loreaux — COMMENTED** [review]
You could have analogous lemmas for `columnStochastic` though.

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 5]
```diff
@@ -0,0 +1,51 @@
...
+
+theorem linfty_opNorm_le_one_of_mem_rowStochastic (hA : A ∈ rowStochastic 𝕜 n) : ‖A‖ ≤ 1 := by
+  have hrow (i : n) : ∑ j, ‖A i j‖ = 1 := RCLike.ofReal_injective (K := 𝕜) <| by
+    push_cast [RCLike.norm_of_nonneg' (nonneg_of_mem_rowStochastic hA)]
+    exact sum_row_of_mem_rowStochastic hA i
+  simp [linfty_opNorm_def, ← NNReal.coe_le_coe, hrow]
+
+theorem norm_mulVec_le_of_mem_rowStochastic (hA : A ∈ rowStochastic 𝕜 n) (v : n → 𝕜) :
+    ‖A *ᵥ v‖ ≤ ‖v‖ := by
+  grw [linfty_opNorm_mulVec, linfty_opNorm_le_one_of_mem_rowStochastic hA, one_mul]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/Stochastic.lean:44]: I'm on the fence about whether this lemma is worthwhile, given it can be reached by such a short and obvious chain of rewrites. @j-loreaux, any thoughts?

File: Mathlib/Analysis/Matrix/Stochastic.lean [hunk 6]
```diff
@@ -0,0 +1,51 @@
...
+  at most `1`.
+-/
+
+@[expose] public section
+
+namespace Matrix
+
+open scoped ComplexOrder Matrix.Norms.Operator
+
+variable {𝕜 n : Type*} [RCLike 𝕜] [Fintype n] [DecidableEq n] {A : Matrix n n 𝕜}
```
Comment (eric-wieser) [inline Mathlib/Analysis/Matrix/Stochastic.lean:34]: @j-loreaux, is there a CStarAlgebra generalization? Or a generalization that works for `Rat`?

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/Analysis/Matrix/Stochastic.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/Analysis/Matrix/Stochastic.lean:34]: We'll be getting a more general spectral radius here: #42607
